US09328116B2
Synthesis of 3-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-1-[1-(4-fluorophenyl)-5-methylpyrazol-4-yl]piperidin-2-one
To a solution of 3-bromo-1-[1-(4-fluorophenyl)-5-methylpyrazol-4-yl]piperidin-2-one (0.05 g, 0.14 mmol) in DMF (1.0 mL) was added 4-chloro-5-methyl-3-(trifluoromethyl)-1H-pyrazole (0.031 g, 0.17 mmol), followed by potassium carbonate (0.029 g, 0.21 mmol). After stirring at room temperature for 1 h, the reaction was quenched with water. The aqueous layer was then extracted with ethyl acetate (2×25 mL). The combined organic layers were washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. The resulting crude product was purified by reverse phase HPLC (C18 column, acetonitrile-H2O with 0.1% TFA as eluent) to give the title compound as a white solid (0.015 g, 0.025 mmol, 23%). 1H NMR (400 MHz, CDCl3) δ 7.65 (s, 1H), 7.44-7.35 (m, 2H), 7.22-7.13 (m, 2H), 4.94 (dd, J=9.9, 6.3 Hz, 1H), 3.90-3.70 (m, 2H), 2.73 (dddd, J=13.2, 11.5, 9.8, 3.3 Hz, I H), 2.47-2.38 (m, 1H), 2.36 (s, 3H), 2.31 (ddd, J=10.6, 5.4, 2.4 Hz, 1H), 2.17-2.12 (m, 1H), 2.13 (s, 3H); MS: (ES) m/z calculated for C20H18ClF4N5O [M+H]+ 456.1. found 456.1.

reactant | 3-bromo-1-[1-(4-fluorophenyl)-5-methylpyrazol-4-yl]piperidin-2-one | 0.14 mmol, 0.05 g | BrC1C(N(CCC1)C=1C=NN(C1C)C1=CC=C(C=C1)F)=O | C15H15BrFN3O
reactant | 4-chloro-5-methyl-3-(trifluoromethyl)-1H-pyrazole | 0.17 mmol, 0.031 g | ClC=1C(=NNC1C)C(F)(F)F | C5H4ClF3N2
reactant | potassium carbonate | 0.21 mmol, 0.029 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 3-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-1-[1-(4-fluorophenyl)-5-methylpyrazol-4-yl]piperidin-2-one | 0.025 mmol, 0.015 g, 23% | ClC=1C(=NN(C1C)C1C(N(CCC1)C=1C=NN(C1C)C1=CC=C(C=C1)F)=O)C(F)(F)F | C20H18ClF4N5O
